US07915424B2
N-(5-Bromo-2-fluorobenzyl)methanesulfonamide
Dissolve 5-bromo-2-fluorobenzylamine hydrochloride (500 mg, 2.08 mmol) in dichloromethane (8 mL) and diisopropylethylamine (0.90 mL, 5.20 mmol) and treat with methanesulfonyl chloride (0.19 mL, 2.49 mmol). After 4.5 h dilute with ethyl acetate and wash with 0.5 N hydrochloric acid, an aqueous saturated solution of sodium bicarbonate, and an aqueous saturated solution of sodium chloride. Dry (sodium sulfate), filter, and concentrate to give the title compound as a pale orange oil, which crystallizes upon standing (573 mg, 98%).

reactant | 5-bromo-2-fluorobenzylamine hydrochloride | 2.08 mmol, 500 mg | Cl.BrC=1C=CC(=C(CN)C1)F
reactant | diisopropylethylamine | 5.20 mmol, 0.90 mL | C(C)(C)N(CC)C(C)C | C8H19N
reactant | methanesulfonyl chloride | 2.49 mmol, 0.19 mL | CS(=O)(=O)Cl | CH3ClO2S
solvent | dichloromethane | 8 mL | ClCCl | CH2Cl2
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | N-(5-Bromo-2-fluorobenzyl)methanesulfonamide | BrC=1C=CC(=C(CNS(=O)(=O)C)C1)F | C8H9BrFNO2S
